US07799796B2
To a suspension of compound 5-(5-iodo-2-isopropyl-4-methoxy-phenoxy)-pyrimidine-2,4-diamine (1.0 g, 2.5 mmoles), Boc-DL-valine (1.22 g, 5.6 mmoles), and 4-dimethylaminopyridine (1.0 g, 8.2 mmoles) in dichloromethane, was added 1,3-dicyclohexylcarbodiimide (2.4 g, 11.6 mmoles). The mixture was stirred at room temperature for 60 hours, and solids were filtered off. The filtrate was evaporated and the residue was dissolved in a mixture of concentrated aqueous ammonium hydroxide and methanol (5 ml/45 ml) and stirred at room temperature for 5 hours. Solvent was evaporated under reduced pressure and the residue was partitioned between dichloromethane and 0.5 N aqueous HCl. The organic phase was washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography (30% ethyl acetate in hexane) to give Boc-protected 2-Amino-N-[4-amino-5-(5-iodo-2-isopropyl-4-methoxy-phenoxy)-pyrimidin-2-yl]-3-methyl-butyramide as a white foam (0.2 g), MS (M+H)=600. This Boc compound was dissolved in dichloromethane (3 ml) and 1M HCl in diethyl ether (10 ml) was added. The mixture was stirred for 4 hours at room temperature, and 10 ml of additional diethyl ether was added. The resulting solid precipitate was collected and crystallized from isopropanol and ether to give 2-amino-N-[4-amino-5-(5-iodo-2-isopropyl-4-methoxy-phenoxy)-pyrimidin-2-yl]-3-methyl-butyramide as white solid (0.12 g), MS (M+H)=500.

reactant | 5-(5-iodo-2-isopropyl-4-methoxy-phenoxy)-pyrimidine-2,4-diamine | 2.5 mmoles, 1.0 g | IC=1C(=CC(=C(OC=2C(=NC(=NC2)N)N)C1)C(C)C)OC | C14H17IN4O2
reactant | Boc-DL-valine | 5.6 mmoles, 1.22 g | C(=O)(OC(C)(C)C)NC(C(C)C)C(=O)O | C10H19NO4
reactant | 1,3-dicyclohexylcarbodiimide | 11.6 mmoles, 2.4 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | HCl | 1M | Cl | ClH
catalyst | 4-dimethylaminopyridine | 8.2 mmoles, 1.0 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | 2-amino-N-[4-amino-5-(5-iodo-2-isopropyl-4-methoxy-phenoxy)-pyrimidin-2-yl]-3-methyl-butyramide | 0.12 g | NC(C(=O)NC1=NC=C(C(=N1)N)OC1=C(C=C(C(=C1)I)OC)C(C)C)C(C)C | C19H26IN5O3
